US07456187B2
Ethyl 3-[(3-cyano-4-phenyl-2-furyl) amino]-3-oxopropanoate
Ethyl malonyl chloride (3.8 ml, 29.89 mmol) was added dropwise to a solution of 2-amino-4-phenyl-3-furonitrile (5 g, 27.17 mmol) and triethylamine (4.2 ml, 29.89 mmol) in THF (30 ml) maintaining temperature below 5° C. under nitrogen. This was allowed to warm up to room temperature and stirred for 2 hr. The reaction mixture was diluted with water and extracted with DCM. The organic layers were combined and washed with brine and dried over MgSO4. The solution was filtered and solvent removed under reduced pressure. The residue was purified by column chromatography using DCM isolating an orange oil (3.7 g, 46%).

reactant | Ethyl malonyl chloride | 29.89 mmol, 3.8 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | 2-amino-4-phenyl-3-furonitrile | 27.17 mmol, 5 g | NC=1OC=C(C1C#N)C1=CC=CC=C1 | C11H8N2O
reactant | triethylamine | 29.89 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 3-[(3-cyano-4-phenyl-2-furyl) amino]-3-oxopropanoate | C(#N)C1=C(OC=C1C1=CC=CC=C1)NC(CC(=O)OCC)=O | C16H14N2O4
